US09023843B2
{3-Chloro-6-[2-(3-fluoro-phenyl)-ethyl]-benzo[1,4]oxazin-2-ylidenemethyl}-dimethyl-amine
To a solution of dimethylformamide (0.82 mL, 10.6 mmol, 2.5 equiv) in chloroform (10 mL) at 0° C. was added phosphorus(V) oxychloride (0.78 mL, 8.49 mmol, 2 equiv). After stirring 10 min at 0° C., the reaction vessel was warmed to 23° C. for 10 min then re-cooled to 0° C. A solution of 6-[2-(3-fluoro-phenyl)-ethyl]-4H-benzo[1,4]oxazin-3-one in chloroform (7 mL) was added. After stirring a further 5 min at 0° C. the reaction was warmed to reflux (oil bath) for 4 h then cooled to 23° C. and partitioned between dichloromethane and water (100 mL each). The aqueous layer was adjusted to pH 12 with 5 N aqueous sodium hydroxide, and then the organic layer was separated. The organic layer was washed with brine (100 mL) and set aside. The original aqueous layer was re-extracted with dichloromethane (100 mL). The two organic extracts were combined, dried (MgSO4), filtered and concentrated. The product was purified using an Isco CombiFlash automated chromatography system. The residue was loaded onto a 80 g silica gel column as a solution in dichloromethane (5 mL) then eluted with ethyl acetate in heptane (0-40% ethyl acetate linear gradient over 16 column volumes at a flow rate of 60 mL/min) to give 985 mg (2.86 mmol, 67%) of the title compound as an orange/brown oil.

reactant | dimethylformamide | 10.6 mmol, 0.82 mL, 2.5 equiv | CN(C=O)C | C3H7NO
reactant | phosphorus(V) oxychloride | 8.49 mmol, 0.78 mL, 2 equiv | O(Cl)Cl.[P+5]
reactant | 6-[2-(3-fluoro-phenyl)-ethyl]-4H-benzo[1,4]oxazin-3-one | FC=1C=C(C=CC1)CCC=1C=CC2=C(NC(CO2)=O)C1 | C16H14FNO2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | {3-Chloro-6-[2-(3-fluoro-phenyl)-ethyl]-benzo[1,4]oxazin-2-ylidenemethyl}-dimethyl-amine | 2.86 mmol, 985 mg, 67% | ClC=1C(OC2=C(N1)C=C(C=C2)CCC2=CC(=CC=C2)F)=CN(C)C | C19H18ClFN2O
